US07842713B2
Preparation of Intermediate 324c: Ethyl 4-({1-[(dimethylamino)carbonyl]azetidin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate
To a solution of ethyl 4-(azetidin-3-yloxy)-2-methyl-1-benzofuran-6-carboxylate (200 mg, 0.73 mmol) in dissolved in DCM with containing TEA (0.4 mL, 2.9 mmol) was added dimethylcarbamic chloride (0.1 mL, 1.09 mmol). The mixture solution was stirred at room temperature for 2 hrs. The reaction was diluted with DCM, washed with NaHCO3, brine, dried over Na2SO4 and concentrated under reduced pressure. The product was purified via gradient silica gel chromatography using EtOAc/Hexanes (20/80 to 60/40) to provide the product (138 mg, 55%) as a colorless oil. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 1.36-1.54 (m, 3 H) 2.49 (s, 3 H) 2.88 (s, 6 H) 4.06-4.20 (m, 2 H) 4.33-4.53 (m, 4 H) 5.04-5.18 (m, 1 H) 6.52 (s, 1 H) 7.01 (s, 1 H) 7.80 (s, 1 H); MS (ESI, pos): 347.

reactant | ethyl 4-(azetidin-3-yloxy)-2-methyl-1-benzofuran-6-carboxylate | 0.73 mmol, 200 mg | N1CC(C1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC | C15H17NO4
reactant | dimethylcarbamic chloride | 1.09 mmol, 0.1 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | DCM | C(Cl)Cl | CH2Cl2
product | Ethyl 4-({1-[(dimethylamino)carbonyl]azetidin-3-yl}oxy)-2-methyl-1-benzofuran-6-carboxylate | 138 mg, 55% | CN(C(=O)N1CC(C1)OC1=CC(=CC2=C1C=C(O2)C)C(=O)OCC)C | C18H22N2O5
